US07208490B2
A solution of 3-(Benzylamino)-1,1,1-trifluoropropan-2-ol (2.68 g, 12.3 mmol) and triethylamine (1.7 mL, 12.2 mmol) in CH2Cl2 is cooled to 0° C. The solution is treated drop wise with 2-bromopropanoyl chloride (1.2 mL, 12 mmol, Aldrich) and stirred for 5 minutes. The solution is diluted to 100 mL with CH2Cl2 and washed sequentially with 1.0M HCl, saturated NaHCO3, and brine (100 mL each). The organic layer is dried over Na2SO4 and filtered. The solvent is removed by rotary evaporation yielding (N-benzyl-2-bromo-N-(3,3,3-trifluoro-2-hydroxypropyl)propanamide as a golden oil. Dry NaH is suspended in dry, inhibitor free THF (25 ml) in a flame dried flask and the mixture is cooled to 0° C. with stirring on an ice bath. The N-benzyl-2-bromo-N-(3,3,3-trifluoro-2-hydroxypropyl)propanamide (4.25 g, 12 mmol) is added as a solution in dry, inhibitor free THF (25 ml) and the resultant suspension is warmed to RT. After stirring for one hour the reaction is quenched with MeOH over an ice bath until no more gas evolved and the mixture is poured into 1.0M HCl (200 mL). The aqueous mixture is extracted into MTBE (200 mL) and the organic layer is washed with saturated NaHCO3 and brine (200 mL each). The organic layer is dried over Na2SO4 and filtered, and the solvent is removed by rotary evaporation yielding an amber oil.

reactant | 3-(Benzylamino)-1,1,1-trifluoropropan-2-ol | 12.3 mmol, 2.68 g | C(C1=CC=CC=C1)NCC(C(F)(F)F)O | C10H12F3NO
reactant | triethylamine | 12.2 mmol, 1.7 mL | C(C)N(CC)CC | C6H15N
reactant | 2-bromopropanoyl chloride | 12 mmol, 1.2 mL | BrC(C(=O)Cl)C | C3H4BrClO
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | N-benzyl-2-bromo-N-(3,3,3-trifluoro-2-hydroxypropyl)propanamide | C(C1=CC=CC=C1)N(C(C(C)Br)=O)CC(C(F)(F)F)O | C13H15BrF3NO2
